US07317124B2
b) 4-Methoxypentafluorosulfanylbenzene
5.00 g of 4-pentafluorosulfanylphenol were dissolved in 50.00 g of dimethyl carbonate and 3.46 g of DBU were added. The mixture was boiled under reflux for 10 hours, then allowed to cool and diluted with 200 ml of EA. Subsequently, the mixture was washed twice with 100 ml each time of a 5% aqueous HCl solution, then with 100 ml of a 5% aqueous NaOH solution. Drying was effected over MgSO4 and the solvent was removed under reduced pressure. Chromatography on silica gel using 1:1 DIP/HEP afforded 2.2 g of a colorless oil.

reactant | 4-pentafluorosulfanylphenol | 5.00 g | FS(C1=CC=C(C=C1)O)(F)(F)(F)F | C6H5F5OS
reactant | DBU | 3.46 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dimethyl carbonate | 50.00 g | C(OC)(OC)=O | C3H6O3
solvent | EA | 200 ml | CC(OCC)=O | C4H8O2
product | 4-Methoxypentafluorosulfanylbenzene | 2.2 g | COC1=CC=C(C=C1)S(F)(F)(F)(F)F | C7H7F5OS
